US05393755
2-chloro-1,7-bis(phenylmethyl)purin-6-one
Treat 1,7-bis(phenylmethyl)purin-2,6-dione with POCl3 in accordance with Preparative Example 4, to give the title compound, an off-white solid, EI MS: M+=350.

reactant | 1,7-bis(phenylmethyl)purin-2,6-dione | C1(=CC=CC=C1)CN1C(NC=2N=CN(C2C1=O)CC1=CC=CC=C1)=O | C19H16N4O2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-1,7-bis(phenylmethyl)purin-6-one | ClC=1N(C(C=2N(C=NC2N1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C19H15ClN4O
